US06627651B1
To 3-hydroxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene (1.76 g, 10.0 mmol) dissolved in DMF (10 ml) were added potassium carbonate (2.76 g, 20.0 mmol) and 4-methylbenzyl bromide (2.04 g, 11.0 mmol), and the resulting mixture was stirred at room temperature for 24 hours. The reaction mixture was concentrated under reduced pressure, and the residue was mixed with water (20 ml) and extracted with ethyl acetate (20 ml×3). The combined organic layers were dried with anhydrous magnesium sulfate and were then concentrated under reduced pressure, and the residue was subjected to column chromatography (silica gel: 40 g, ethyl acetate/hexane=1/30). The objective fractions were concentrated under reduced pressure to obtain 3-(4-methylbenzyloxy)-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene (2.74 g, 9.77 mmol, 98%).

reactant | 3-hydroxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene | 10.0 mmol, 1.76 g | OC1=CC2=C(CCCCC2=O)C=C1 | C11H12O2
reactant | potassium carbonate | 20.0 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methylbenzyl bromide | 11.0 mmol, 2.04 g | CC1=CC=C(CBr)C=C1 | C8H9Br
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-(4-methylbenzyloxy)-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene | 9.77 mmol, 2.74 g, 98% | CC1=CC=C(COC2=CC3=C(CCCCC3=O)C=C2)C=C1 | C19H20O2
